US08535949B2
Preparation of Glu-CLIO
MION-47 and amino-CLIO (25-35 nm) were prepared as described elsewhere. D-Glucose, D-(+)-Glucosamine hydrochloride, succinic anhydride, Concanavalin A (ConA) and Sephadex G-25 were from Sigma Aldrich Co. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) and sulfo-N-hydroxysuccinimide (sulfo-NHS) were from Pierce (Rockford, Ill.). To synthesize a glucose-functionalized nanoparticle (Glu-CLIO), NH2-CLIO was first converted to a carboxylic group functionalized nanoparticle, followed by coupling of 2-amino-glucose using a water-soluble carbodiimide. To obtain a carboxylic functionalized CLIO, 2.0 mg succinic anhydride was added into 200 uL NH2-CLIO (10 mg Fe/mL, 42 NH2 per 2064 Fe) with 300 uL (0.1 M) NaHCO3 buffer, pH 8.5. The mixture was incubated at room temperature for two hours and succinic acid removed using a Sephadex G-25 column eluted with MES buffer (0.5 M NaCl, 0.05 M MES), pH 6.0. To conjugate 2-amino-glucose to carboxy functionalized CLIO (CLIO-COOH), 2 mg EDC and 2 mg sulfo-NHS were added into 500 uL CLIO-COOH (mg Fe/mL) in MES buffer, pH 6.0. The mixture was allowed to react for two hours at room temperature and purified by Sephadex G-25 column eluted with PBS buffer at pH 7.4. Subsequently 2 mg Glucosamine was added into above solution and the mixture reacted for one hour at room temperature. Unreacted glucosamine was removed with Sephadex G-25 in PBS.

reactant | glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | NaHCO3 | 0.1 M, 300 uL | C(=O)(O)[O-].[Na+]
catalyst | Fe | 10 mg | [Fe] | Fe
product | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
